US06689922B1
3-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}phenol
In a manner similar to Example 25(d), by reacting 0.133 ml of concentrated sulphuric acid with 1.25 g (2.39 mmol) of tert-butyldimethyl-[3-(2-{3-[6-methyl-6-(tetrahydropyran-2-yloxy)heptyl]phenyl}-vinyl)phenoxy]silane in 20 ml of THF and 10 ml of water, after crystallization from a heptane/ethyl acetate mixture, white crystals (m=697 mg; Y=90%) are obtained. m.p.=96-7° C.

reactant | sulphuric acid | 0.133 ml | S(O)(O)(=O)=O | H2O4S
reactant | tert-butyldimethyl-[3-(2-{3-[6-methyl-6-(tetrahydropyran-2-yloxy)heptyl]phenyl}-vinyl)phenoxy]silane | 2.39 mmol, 1.25 g | C(C)(C)(C)[Si](OC1=CC(=CC=C1)C=CC1=CC(=CC=C1)CCCCCC(C)(OC1OCCCC1)C)(C)C | C33H50O3Si
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}phenol | OC(CCCCCC=1C=C(C=CC1)C=CC=1C=C(C=CC1)O)(C)C | C22H28O2
